US04242510
To a suspension of thus obtained ethyl 2-(4-formyl-2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetate (syn isomer, 4.8 g.) in ethanol (48 ml.) was added 1N aqueous solution of potassium hydroxide (22.3 ml.), and the mixture was stirred at room temperature for 1.25 hours. After removing ethanol from the resultant solution under reduced pressure, water was added to the residue to a total volume of 100 ml., and washed with diethyl ether. The solution was adjusted to pH 1 with 10% hydrochloric acid, and salted out. After the solution was extracted with ethyl acetate, the extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether (15 ml.) and the crystals were collected by filtration and washed with diethyl ether to give 2-(4-formyl-2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetic acid (syn isomer, 3.51 g.).

reactant | ethyl 2-(4-formyl-2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetate | 4.8 g | C(=O)N1CCSC=C1C(C(=O)OCC)=NOC | C10H14N2O4S
reactant | potassium hydroxide | 22.3 ml | [OH-].[K+]
solvent | ethanol | 48 ml | C(C)O | C2H6O
product | 2-(4-formyl-2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetic acid | 3.51 g | C(=O)N1CCSC=C1C(C(=O)O)=NOC | C8H10N2O4S
